US04265890
Following the procedures outlined in Example 17, 0.9 g. (0.0075 mole) of furfuryl mercaptan and 2 g. (0.0073 mole) of 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7,8-dione hydrobromide were reacted in 200 ml. of methanol to yield 7,8-dihydroxy-6-furfurylthio-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine, free base m.p. 162°-165° C.

reactant | furfuryl mercaptan | 0.0075 mole | C(C1=CC=CO1)S | C5H6OS
reactant | 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7,8-dione hydrobromide | 0.0073 mole | Br.CN1CCC=2C(CC1)=CC(C(C2)=O)=O
solvent | methanol | CO | CH4O
product | 7,8-dihydroxy-6-furfurylthio-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | OC1=C(C2=C(CCN(CC2)C)C=C1O)SCC1=CC=CO1 | C16H19NO3S
